US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 4-acetyl-phenylboronic acid to give 1-{4-[3-(1H-pyrazol-3-ylamino)-isoquinolin-1-yl]-phenyl}-ethanone. LC-MS m/e 329(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 4-acetyl-phenylboronic acid | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
product | 1-{4-[3-(1H-pyrazol-3-ylamino)-isoquinolin-1-yl]-phenyl}-ethanone | N1N=C(C=C1)NC=1N=C(C2=CC=CC=C2C1)C1=CC=C(C=C1)C(C)=O | C20H16N4O
